US04720499
1,2,5,8,9,10-Hexahydro-1,9-dioxo-10-(2-trifluoromethylphenyl)-pyrido[4,3-b][1,6]naphthyridine
A solution of 39.7 g (0.1 mole) diethyl 1,4-dihydro-2,6-dimethyl-4-(2-trifluoromethylphenyl)-pyridine-3,5-dicarboxylate in 250 ml dimethylformamide is added dropwise, under an atmosphere of nitrogen, to a suspension of 6.0 g (0.2 mole) sodium hydride (80% in oil) in 100 ml dry dimethylformamide. After cessation of the evolution of gas, the reaction mixture is further stirred for 10 minutes at ambient temperature and subsequently 16.2 g (0.2 mole) s-triazine in 50 ml dimethylformamide are added dropwise thereto. The reaction mixture is stirred for 16 hours at 105° C. and, after cooling, evaporated in a vacuum. The residue is taken up in 200 ml ethanol and the crystals which separate out after stirring in an ice bath for several hours are filtered off. The mother liquor contains, as by-product, the ethyl (±)-1,4,5,6-tetrahydro-2-methyl-5-oxo-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylate already described in German Pat. No. 33 27 650. The crystals are placed into an extraction column and extracted with methanol for 24 hours. After cooling, from the methanol solution there crystallize 1,2,5,8,9,10-hexahydro-1,9-dioxo-10-(2-trifluoromethylphenyl)-pyrido[4,3-b][1,6]naphthyridine in the form of pale beige crystals; mp 350° C. (dec).

reactant | diethyl 1,4-dihydro-2,6-dimethyl-4-(2-trifluoromethylphenyl)-pyridine-3,5-dicarboxylate | 0.1 mole, 39.7 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC)C | C20H22F3NO4
reactant | sodium hydride | 0.2 mole, 6.0 g | [H-].[Na+]
reactant | s-triazine | 0.2 mole, 16.2 g | N1=CN=CN=C1 | C3H3N3
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,2,5,8,9,10-Hexahydro-1,9-dioxo-10-(2-trifluoromethylphenyl)-pyrido[4,3-b][1,6]naphthyridine | O=C1C=2C(C3=C(NC2C=CN1)C=CNC3=O)C3=C(C=CC=C3)C(F)(F)F | C18H12F3N3O2
